US05075330
4-(1,3-Dihydro-1-oxo-2H-isoindol-2-yl)benzoic acid
A mixture of 4-(1,3-dihydro-1-oxo-2H-isoindol-2-yl)benzoic acid, ethyl ester (2.55 g, 0.009 mol), 1N NaOH (20 ml), water (70 ml), and methanol (70 ml) is heated to reflux for 20 minutes when a clear solution is formed. The reaction mixture is filtered and the filtrate is carefully acidified with 4N HCl (6 ml) to pH 1.0 when a solid pptd. out. The crude 4-(1,3-Dihydro-1-oxo-2H-isoindol-2-yl)benzoic acid is filtered, washed with hot CH30H and dried to give analytical sample. Yield 1.67 g (73%); mp >295° C.

reactant | 4-(1,3-dihydro-1-oxo-2H-isoindol-2-yl)benzoic acid, ethyl ester | 0.009 mol, 2.55 g | O=C1N(CC2=CC=CC=C12)C1=CC=C(C(=O)OCC)C=C1 | C17H15NO3
reactant | NaOH | 1N, 20 ml | [OH-].[Na+]
reactant | water | 70 ml | O | H2O
solvent | methanol | 70 ml | CO | CH4O
product | 4-(1,3-Dihydro-1-oxo-2H-isoindol-2-yl)benzoic acid | O=C1N(CC2=CC=CC=C12)C1=CC=C(C(=O)O)C=C1 | C15H11NO3
